US06949542B2
7,8-Dimethyl-4-(3-pyridin-4-yl-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from commercially available 4,5-dimethyl-1,2-phenylendiamine (136 mg, 1.0 mmol) and 3-oxo-3-(3-pyridin-4-yl-phenyl)-propionic acid tert-butyl ester (Example K2) (297 mg, 1.0 mmol) in xylene (20 ml) under reflux conditions for 2 h according to the general procedure M. Obtained as a light brown solid (294 mg, 86%).

reactant | 4,5-dimethyl-1,2-phenylendiamine | 1.0 mmol, 136 mg | CC1=CC(=C(C=C1C)N)N | C8H12N2
reactant | 3-oxo-3-(3-pyridin-4-yl-phenyl)-propionic acid tert-butyl ester | 1.0 mmol, 297 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C1=CC=NC=C1)=O)=O | C18H19NO3
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 7,8-Dimethyl-4-(3-pyridin-4-yl-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one | CC1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=CC=NC=C2)=O)C=C1C | C22H19N3O
